US04528282
Dimethyl bromomalonate (6.6 ml.) was added to a stirred solution of L-alanyl-L-proline t-butyl ester (22.9 g.) in dichloromethane (40 ml.) which was cooled to 0° C., and the mixture was allowed to warm up to laboratory temperature and stirred at that temperature for 16 hours, then diluted with dichloromethane (150 ml.). The solution was washed successively twice with aqueous 0.5N-citric acid solution (150 ml. each time), water (200 ml.) and saturated aqueous sodium chloride solution (200 ml.), dried over magnesium sulphate and evaporated to dryness. The residue was purified by chromatography on a silica gel column using a 4:1 v/v mixture of dichloromethane and ethyl acetate as eluant, and there was thus obtained as an oil N-(dimethoxycarbonylmethyl)-L-alanyl-L-proline t-butyl ester.

reactant | Dimethyl bromomalonate | 6.6 ml | BrC(C(=O)OC)C(=O)OC | C5H7BrO4
reactant | L-alanyl-L-proline t-butyl ester | 22.9 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O | C12H22N2O3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-(dimethoxycarbonylmethyl)-L-alanyl-L-proline t-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(C(=O)OC)C(=O)OC)C)=O)=O | C17H28N2O7
